US06087357
Potassium carbonate (187 mg) and 2-(chloromethyl)pyridine hydrochloride (81 mg) were added to a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine (200 mg) in N,N-dimethylformamide (4 ml) at room temperature with stirring. After 2 hours, the reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The organic layer was washed with water and then dried over magnesium sulfate, and evaporated under reduced pressure. The obtained residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and toluene (1:3) and treated with 4N hydrogen chloride in ethyl acetate solution to afford (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(2-pyridylmethyl)piperazine dihydrochloride (123 mg).

reactant | Potassium carbonate | 187 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethyl)pyridine hydrochloride | 81 mg | Cl.ClCC1=NC=CC=C1
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine | 200 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C22H22F6N2O
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(2-pyridylmethyl)piperazine dihydrochloride | 123 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC2=NC=CC=C2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C28H27F6N3O.2ClH/c1-18-6-7-20(11-19(18)2)12-25-17-36(16-24-5-3-4-8-35-24)9-10-37(25)26(38)21-13-22(27(29,30)31)15-23(14-21)28(32,33)34;;/h3-8,11,13-15,25H,9-10,12,16-17H2,1-2H3;2*1H/t25-;;/m1../s1
